Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides) / Epinephrine
 
Attending: ___.
 
Chief Complaint:
Bloody stools
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo F w/PMHx sx for HTN who presents with 
BRBPR filling the toilet bowl, with associated nausea, vomiting, 
diarrhea, and abdominal cramping. She has recently been taking a 
course of doxycycline for presumed Lyme disease. She denies 
fevers or chills. 
.
In the ED, she was hemodynamically stable. She had no obvious 
fissure or hemorrhoids seen on anoscopy. She was given IV 
ciprofloxacin and metronidazole. 
.
ROS: Negative except as noted above
 
Past Medical History:
HTN
Osteoarthritis
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: 98.9 BP 170/86 HR 65 RR 18 O2sat 94%RA
Gen: well appearing in NAD
HEENT: MMM. 
Hrt: RRR.
Lungs: CTAB no RRW
Abd: S/suprapubic tenderness. Nondistended. 
Ext: WWP. No CCE.

 
Pertinent Results:
141  ___   AGap=12 
------------- 
3.7  28  1.0 \ 
estGFR: 55/67 (click for details)  
ALT: 35 AP: 116 Tbili: 0.5 Alb: 4.4 
AST: 19 LDH: 197   
 81 
9.9 \ 13.7 / 196 
     ------
      38.7  
 N:67.6 L:27.1 M:4.6 E:0.5 Bas:0.2 

Stool cx. negative times two.

Bx. of splenic flexure pending at time of discharge
 
Brief Hospital Course:
A/P: ___ yo F presents with bloody diarrhea.
.
#. Bloody diarrhea - abated with bowel rest.  CT of the abdomen 
with splenic flexure colitis.  GI consulted.  Flex sig 
performed.  Colitis.  Cx. neg of stools times two.  Bx done and 
pending, ? ischemic etiology.  Given oral abx. per GI 
recommendations.  Diuretic held as ? ischemia and was 
orthostatic and volume deplete on presentation.
.
# facial rash - etiology unclear, but bilateral, so highly 
unlikely to be zoster.  Derm consulted.  Agree that etio 
unclear.  Rec. Bx., but pt. refused.  Will follow up as 
outpatient if persists.  ? fixed drug eruption from abx.
 
Medications on Admission:
Atenolol 25 mg qd
Moexipril-HCTZ ___ QD
Edecrin 12.5 mg qd
Plendil 1 tab daily
Aspirin 81 mg daily
Prilosec 20 mg qd
Doxycycline (Recently completed a course)
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*60 Tablet, Chewable(s)* Refills:*2*
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
4. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 1 days.
Disp:*3 Tablet(s)* Refills:*0*
5. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 1 days.
Disp:*2 Tablet(s)* Refills:*0*
6. Felodipine 2.5 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
7. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis of the splenic flexure.  Biopsies pending, etiology 
unknown.

 
Discharge Condition:
Stable

 
Discharge Instructions:
Resume your home medications, but stop taking your diuretic 
(moexepil-hydrochlorothiazide) as we discussed as this may 
predispose dehydration and ischemic colitis.

Return to the hospital for: bleeding, nausea, vomiting, fever, 
abdominal pain
 
Followup Instructions:
___